US04410520
Potassium t-butoxide (1.2 g) was added to a solution of 3-(1-benzyloxycarbonyl-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one (3.0 g) and t-butyl bromoacetate (2.2 g) in tetrahydrofuran (100 ml) stirring at room temperature under an atmosphere of dry nitrogen. The reaction mixture was stirred for 20 hours at room temperature, then poured into water (250 ml) and extracted with dichloromethane (2×150 ml). The combined dichloromethane solutions were washed with water (100 ml) and dried over magnesium sulfate. Evaporation of the solvent gave 3-(1-benzyloxycarbonyl-3-phenylpropylamino)-1-t-butyloxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one.

reactant | Potassium t-butoxide | 1.2 g | CC(C)([O-])C.[K+]
reactant | 3-(1-benzyloxycarbonyl-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 3.0 g | C(C1=CC=CC=C1)OC(=O)C(CCC1=CC=CC=C1)NC1C(NC2=C(CC1)C=CC=C2)=O | C27H28N2O3
reactant | t-butyl bromoacetate | 2.2 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | water | 250 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(1-benzyloxycarbonyl-3-phenylpropylamino)-1-t-butyloxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | C(C1=CC=CC=C1)OC(=O)C(CCC1=CC=CC=C1)NC1C(N(C2=C(CC1)C=CC=C2)CC(=O)OC(C)(C)C)=O | C33H38N2O5
